US04490369
(a) 1-(7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-2-chloro-ethane
This compound was prepared analogous to Example 1(a) by reacting 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one with 1-chloro-2-bromo-ethane.

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | 1-chloro-2-bromo-ethane | ClCCBr | C2H4BrCl
product | 1-(7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-2-chloro-ethane | COC1=CC2=C(CC(N(C=C2)CCCl)=O)C=C1OC | C14H16ClNO3
